US05563162
To a mixture of 8-[3-(N-glycyl-N-methylamino)2,6-dichlorobenzyloxy]-2-methylquinoline (100 mg), triethylamine (50 mg) and dichloromethane (2.0 ml) was added heptanoyl chloride (0.05 ml) in an ice-water bath. The mixture was stirred at the same temperature for 30 minutes and washed with water. The organic layer was collected and dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (dichloromethane-methanol) to give 8-[2,6-dichloro-3-[N-(heptanoylglycyl)-N-methylamino]benzyloxy]-2-methylquinoline (130 mg) as a pale yellow oil.

reactant | 8-[3-(N-glycyl-N-methylamino)2,6-dichlorobenzyloxy]-2-methylquinoline | 100 mg | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | C20H19Cl2N3O2
reactant | triethylamine | 50 mg | C(C)N(CC)CC | C6H15N
reactant | heptanoyl chloride | 0.05 ml | C(CCCCCC)(=O)Cl | C7H13ClO
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 8-[2,6-dichloro-3-[N-(heptanoylglycyl)-N-methylamino]benzyloxy]-2-methylquinoline | 130 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(CCCCCC)=O)=O)Cl | C27H31Cl2N3O3
